Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Dyspnea.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
This is an ___ yo woman with history of type II diabetes, 
peripheral vascular disease, hypertension, and hyperlipid who 
was recently admitted to CCU for respiratory distress in the 
setting of decompensated heart failure and NSTEMI. She presented 
to the ED last night from rehab less than 24 hours 
post-discharge for increasing shortness of breath.  

She says that she arrived at rehab yesterday afternoon feeling 
generally well. She ate dinner after which she developed mild 
abdominal discomfort that resolved spontaneously. She then felt 
as if her heart was beating fast, and she also felt tired. There 
was no chest pain or pressure, lightheadedness or dizziness. She 
says she was diaphoretic at the time. Her daughter, concerned, 
called ___. En route to the hospital, she was noted to be 
tachypnic and hypoxic (per ED report).  

Initially in the ED she was hypoxic to mid ___. She was also 
hypertensive to 180s initially. EKG showed sinus tachycardia 
with LAD (unchanged). Widened QRS (114 ms) with ST elevations in 
anterior precordial leads (unchanged) and ST-depressions/T-wave 
inversions in lateral leads (unchanged). CXR showed bilateral 
perihilar consolidations worse from two days prior with 
persistent pleural effusions; overall impression was worsening 
pulmonary edema, although infection could not be excluded. ABG 
showed 7.43/36/124. Lactate was 2.4. Labs were notable for white 
count of 16.1 with 66.2% neutrophils and no bands. BMP showed a 
bicarb of 21 with anion gap of 12. Renal function was normal. Of 
note, her troponin was 2.63 (down from previous 6.41 on ___ 
with flat CK. BNP was 14,871 (no prior for comparison). She was 
placed on a nitro drip intially; this was quickly weaned off. 
She was also placed on BiPAP intially. There were attempts made 
to wean her to face mask or nasal cannula. However, per ED 
report she became tachypnic to ___ with these measures, and 
therefore she was readmitted to the CCU.  

At time of admission, her sats were 95-96% on NRB, RR ___, 
heart rate in the ___ with systolic BP 110s. In the ED she 
received aspirin 325 mg x1, levofloxacin 750 mg x1, and Lasix 40 
mg IV x1.  
  
Of note, during her previous admission ___ to ___, she was 
intubated for respiratory distress secondary to mitral 
regurgitation which was believed secondary to ischemia. This all 
had happened after an elective left total hip replacement at ___ 
___. She underwent echocardiogram that showed a new 
___ wall motion abnormality and underwent cardiac cath 
that revealed LAD disease for which a bare metal stent was 
placed. She was started on Plavix and high-dose aspirin, as well 
as Lovenox with bridge to coumadin for apical akinesis (LVEF 
___ noted on echocardiogram. She worked with physical 
therapy for two days without chest pain or dyspnea and was felt 
to be ready for discharge to rehab.

REVIEW OF SYSTEMS: currently, patient denies shortness of 
breath, chest pain or pressure, lightheadedness or dizziness. 
She denies nausea, abdominal discomfort, cough, or sputum 
production.
 
Past Medical History:
1) History of diabetes type II, although most recent HgA1c was 
5.8 (___) off of all medications
2) Peripheral vascular disease: s/p left common femoral to below 
knee popliteal artery bypass with in situ saphenous vein and an 
open transluminal angioplasty of the anterior tibial and below 
knee popliteal arteries in ___.  
3) Hypertension  
4) Hyperlipidemia  
5) Hx of R breast ca s/p lumpectomy  
6) Depression
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Vitals: T 97.9, HR 93-94, BP 119-127/58-66), RR ___, sat 
90-98% 5L  
Urine output: 400 cc  
General: elderly woman, generally anxious-appearing, lying 
comfortably in bed, speaking in complete sentences without 
pauses, no accessory muscle use or labored breathing  
HEENT: NC/AT, PERRLA, EOMI  
Neck: supple, no appreciable JVD  
Chest: RRR, normal s1/s2, systolic murmur loudest along left 
sternal border, radiating toward apex although not audible in 
axilla  
Lungs: crackles halfway up posterior fields  
Abdomen: soft, non-tender, normal bowel sounds  
Extremities: trace pitting edema to ankles bilaterally; feet 
warm and well-perfused  
Neurological: AAOx3, moving all extremities

At time of discharge, her oxygen saturations are in the mid to 
high ___ on RA. Her blood pressures have been well-controlled 
with systolic blood pressure ranging from 110 to 130. There is 
no lower extremity pitting edema.
 
Pertinent Results:
___ 02:30AM   TYPE-ART PEEP-5 O2-100 PO2-124* PCO2-36 
PH-7.43 TOTAL CO2-25 BASE XS-0 AADO2-570 REQ O2-92 INTUBATED-NOT 
INTUBA COMMENTS-NIV ___ 01:45AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:45AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 01:45AM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 01:45AM URINE  ___ 01:30AM   LACTATE-2.4*
___ 01:15AM   GLUCOSE-390* UREA N-32* CREAT-0.7 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-106 TOTAL CO2-21* ANION GAP-17
___ 01:15AM   CK(CPK)-72
___ 01:15AM   cTropnT-2.63*
___ 01:15AM   CK-MB-NotDone ___
___ 01:15AM   WBC-16.1*# RBC-3.77* HGB-10.9* HCT-33.8* 
MCV-90 MCH-28.9 MCHC-32.3 RDW-13.9
___ 01:15AM   NEUTS-66.2 ___ MONOS-2.2 EOS-2.9 
BASOS-0.4
___ 01:15AM   PLT COUNT-543*
___ 01:15AM   ___ PTT-34.3 ___
___ 06:20AM   GLUCOSE-115* UREA N-25* CREAT-0.7 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-109* TOTAL CO2-26 ANION GAP-11
___ 06:20AM   CALCIUM-8.3* PHOSPHATE-2.8 MAGNESIUM-2.1
___ 06:20AM   WBC-9.9 RBC-3.37* HGB-10.3* HCT-29.9* MCV-89 
MCH-30.6 MCHC-34.4 RDW-13.8
___ 06:20AM   PLT COUNT-437
___ 06:20AM   ___ PTT-31.6 ___
___ 01:15AM BLOOD WBC-16.1*# RBC-3.77* Hgb-10.9* Hct-33.8* 
MCV-90 MCH-28.9 MCHC-32.3 RDW-13.9 Plt ___
___ 06:20AM BLOOD WBC-9.9 RBC-3.37* Hgb-10.3* Hct-29.9* 
MCV-89 MCH-30.6 MCHC-34.4 RDW-13.8 Plt ___
___ 01:15AM BLOOD Neuts-66.2 ___ Monos-2.2 Eos-2.9 
Baso-0.4
___ 01:15AM BLOOD Plt ___
___ 01:15AM BLOOD ___ PTT-34.3 ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD ___ PTT-31.6 ___
___ 01:15AM BLOOD CK(CPK)-72
___ 01:15AM BLOOD cTropnT-2.63*
___ 01:15AM BLOOD Calcium-8.5 Phos-5.2*# Mg-2.0
___ 02:30AM BLOOD Type-ART PEEP-5 FiO2-100 pO2-124* pCO2-36 
pH-7.43 calTCO2-25 Base XS-0 AADO2-570 REQ O2-92 Intubat-NOT 
INTUBA Comment-NIV ___ 01:30AM BLOOD Comment-GREEN TOP
___ 01:30AM BLOOD Lactate-2.4*

Transthoracic Echocardiogram ___:
Conclusions  
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is moderate 
regional left ventricular systolic dysfunction with severe 
hypokinesis of the distal halves of the anterior septum, 
anterior and inferior walls as well as apex. The remaining 
segments contract normally (LVEF = ___ %). [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] No masses or thrombi are 
seen in the left ventricle. Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are mildly thickened (?#). No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Normal left ventricular cavity size with extensive 
regional systolic dysfunction c/w multivessel CAD (mid-LAD and 
PDA distributions). Increased PCWP. Moderate mitral 
regurgitation. Pulmonary artery systolic hypertension.

CLINICAL IMPLICATIONS: 
The left ventricular ejection fraction is <40%, a threshold for 
which the patient may benefit from a beta blocker and an ACE 
inhibotor or ___. 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

CXR ___
1. Pulmonary edema with effusions, progressive in comparison to 
two days
prior.
2. Calcification of the ascending aorta that appears new from 
recent prior
studies. Repeat chest radiograph is recommended to evaluate for 
change in
contour of the ascending aorta.

___: left hip plain films
Recent hip replacement. Clips are seen in the soft tissues. 
Massive vascular calcifications. Normal position of the joint 
replacement. No evidence of fracture or dislocation

___ Left hip ultrasound
Direct ultrasound examination was performed around the surgical 
site in the anterior and posterior aspect of the left upper 
thigh. Allowing for mild obscuration from the surgical dressing, 
there is no large hematoma. There is expected mild 
post-operative soft tissue edema. IMPRESSION: No large hematoma 
seen around the left hip surgical site.

___: CT abdomen and pelvis:
ABDOMEN: The liver, spleen, adrenal glands, and pancreas are 
normal. The gallbladder is distended, maximum diameter of which 
measures 4.7 cm. There is no pericholecystic fluid collection 
and the gallbladder wall thickness is normal. No intra- or 
extra-hepatic biliary duct dilatation seen. Simple cyst seen in 
the mid pole of left kidney measuring 2.1 x 2 cm. The right 
kidney is normal. No hydronephrosis. Extensive atherosclerotic 
calcifications are seen in the abdominal aorta and the iliac 
arteries. No free fluid. The IVC and aorta are of normal 
caliber. No evidence of retroperitoneal hematoma. 
PELVIS: Significant artifact seen in the lower pelvis from beam 
hardening due to bilateral hip prosthesis. No free fluid seen in 
the pelvis. Calcified fibroid seen in the uterus. Air noted 
within the urinary bladder, likely secondary to Foley 
catheterization. Scattered colonic diverticulosis without 
evidence of diverticulitis. The visualized large bowel is 
otherwise unremarkable. 

There is a large hyperdense collection seen in the region of the 
left gluteal muscle extending inferiorly along the posterior 
aspect of the thigh. This measures approximately 9.5 x 6.2 x 4 
cm. Given patient's recent left hip replacement, this likely 
represents a hematoma and it measures 67 Hounsfield units. The 
lowermost extent of the hematoma is not evaluated on this 
examination. Bilateral total hip replacements noted. 
  
Degenerative changes are seen in the thoracic or lumbar spine. 
At L1-2 and 
T12-L1, there is reduced disc space with vacuum phenomenon. 
  
IMPRESSION: 
1. Hyperdense collection in the left gluteal region extending 
inferiorly 
along the posterior aspect of the femoral shaft, representing 
hematoma. 
Findings were called to Dr. ___ at 2:44 p.m. on ___.  
2. Bilateral moderate pleural effusions with atelectatic changes 
of lung 
bases.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: in summary this is an ___ yo woman with a 
history of type II diabetes, peripheral vascular disease, 
hypertension, and hyperlipidemia recently admitted to the CCU 
for respiratory distress in the setting of decompensated heart 
failure and NSTEMI, now presenting for acute worsening of 
shortness of breath.  
 
# Hypoxia: Her hypoxia was likely secondary to flash pulmonary 
edema in the setting of hypertension. It is not clear what 
precipitated the hypertension, although she was documented to 
have a systolic blood pressure of 180 upon arrival to the 
emergency room. She was treated with supplemental oxygen, 
intravenous lasix for diuresis and the dose of her metoprolol 
was increased for better blood pressure control. Eventually with 
this regimen her oxygen was weaned off and her respiratory 
function improved significantly. She will be discharged on Lasix 
40 mg daily and her renal function and electrolytes should be 
followed at rehab and the lasix dosing adjusted accordingly. She 
has been receiving prn doses of ___ mg IV Lasix once daily to 
help with diuresis, and she has responded very well to this 
regimen. Her most recent creatinine is 0.7 to 0.8, with a BUN 
ranging from 26 to 31.

# Hypertension: As above, metoprolol was adjusted during this 
admission aiming for a target systolic blood pressure less than 
130. She was continued on lisinopril 20 mg daily and the Lasix 
dose was adjusted as above. With these treatments, her blood 
pressure was consistently at target.

# Leukocytosis: On admission she had an elevated white count but 
was afebrile without bandemia or localizing signs of infection. 
She received one dose of levofloxacin in the emergency room but 
this was discontinued and her white count normalized.
  
# Coronary artery disease: She is s/p perioperative MI with BMS 
in LAD. This admission there were no new ischemic changes on 
EKG. Her cardiac enzymes were downward trending from her prior 
admission. She continued to take aspirin, plavix, simvastatin, 
and metoprolol.
 
# Apical akinesis: She was noted to have apical akinesis on her 
last echocardiogram and she was being anticouagulated with 
coumadin for a six month course; however she developed a 
hematoma in her left lateral gluteus following a fall; please 
see CT findings above for full report. Orthopedics service was 
consulted and felt that the hematoma had stopped bleeding; they 
did not believe that surgical intervention was necessary, and 
they felt that her anticoagualation could be resumed. Thus we 
have restarted her coumadin, and due to the bleed we have 
decreased the Lovenox dose to 40 mg daily (prophylactic dose 
given the recent hip replacement), until her coumadin levels are 
therapeutic. Dr. ___ in cardiology clinic can decide on the 
duration of anticoagulation and the plan for follow-up 
echocardiogram. She has been referred to the heart failure 
clinic with a plan to follow up with Dr ___ as her outpatient 
cardiologist. INR should be checked in rehab at the discretion 
of the rehab physician, and she should follow up with the 
___ clinic after discharge from rehab. Her most 
recent INR was 1.0 on ___ (down from 1.2 and 1.4 on ___ and ___, respectively, in the setting of holding her 
coumadin. Coumadin was restarted on ___ at a dose of 3 mg 
daily.
  
# S/p left hip replacement: She had a left hip replacement at ___ 
___ prior to her previous admission. Communication with her 
orthopedic surgeon related that she was full weight-bearing and 
she was evaluated by ___ with a recommendation for rehab. She had 
a fall without head trauma the day prior to her last discharge, 
which she only informed the housestaff about on the day of her 
readmission. At the time of this admission, it was noted that 
she had a drop in hematocrit to 22 from her baseline of 30. She 
was transfused two units of PRBCs. Heparin and Lovenox were 
temporarily held. She had a CT abdomen/pelvis and was found to 
have a bleed in her left lateral gluteus. She was seen by 
orthopedics with a recommendation for conservative management; 
they felt that the bleed would tamponade itself off, and given 
her stable hematocrit and improving clinical exam, this was felt 
to be the case. Her lovenox dose was decreased from 60 mg BID to 
40 mg daily (prophylactic dose). Coumadin was restarted. She 
received tylenol and morphine with a bowel regimen for pain 
control. She will follow up with her orthopedic doctor at 
___ within 2 weeks of her hip replacement.
  
# Anemia: She had a fall in her hematocrit in the setting of her 
left lateral gluteal hematoma. She was transfused 2 units of 
blood and her hematocrit remained stable after that.

# Anxiety / history of depression: The patient previously had 
been treated with Prozac 20 mg daily but refused this medication 
during this and her previous hospitalization.

# Disposition: She is discharged to a rehab facility.

# Code Status: FULL.
 
Medications on Admission:
MEDICATIONS (at discharge on ___:  
- aspirin 325 mg qday  
- clopidogrel 75 mg qday  
- warfarin 3 mg qday  
- simvastatin 80 mg qday  
- multivitamin qday  
- ranitidine 150 mg qday  
- lisinopril 20 mg qday  
- enoxaparin 60 mg qday  
- acetaminophen 325 mg q6h prn  
- metoprolol 50 mg sustained release qday  
- Lasix (dose not clear)
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
7. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. Simvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
10. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) injection 
Subcutaneous DAILY (Daily).  
11. Coumadin 3 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Lasix 40 mg Tablet Sig: 1.5 Tablets PO once a day.  
13. Acetaminophen Extra Strength 500 mg Tablet Sig: Two (2) 
Tablet PO three times a day.  
14. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: Three (3) Tablet Sustained Release 24 hr PO once a day.  
15. Oxycodone 5 mg Capsule Sig: ___ Capsules PO every six (6) 
hours as needed for pain: please do not drink alcohol or perform 
activities that require fast reaction while taking this 
medication.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
Acute Exacerbation of Chronic Heart Failure
Left Hip Hematoma

Secondary Diagnoses
Hypertensive Emergency
Coronary Artery Disease s/p MI with stent to LAD
S/p Left Hip Replacement
 
Discharge Condition:
Stable, alert and oriented to person, place and time.

 
Discharge Instructions:
You were admitted to the hospital because you were having 
difficulty breathing. You were found to have worsening of your 
heart failure in the setting of high blood pressure.

During this admission you were also found to have a bleed in 
your left thigh. You received a blood transfusion, we decreased 
the doses of some of your anticoagulation medicines, and the 
bleeding stopped. 

The following changes were made to your medications:
-we added furosemide 40 mg once daily
-we added trazodone 50 mg at bedtime as needed for insomnia
-we added Tylenol and oxycodone for leg pain (please only 
continue the Tylenol for two weeks before re-evaluation by a 
physician)
-we changed the Lovenox dose to 40 mg subcutaneous daily
-we changed the metoprolol to metoprolol succinate 150 mg daily

Please weight yourself every morning and call MD if weight goes 
up more than 3 lbs.
 
Followup Instructions:
___